US04272541
C. 4,5α-Epoxy-8β-ethyl-3-methoxymorphinan-6-one hydrochloride
A suspension of 17-cyano-4,5α-epoxy-8β-ethyl-3-methoxymorphinan-6-one (4.30 g; prepared in Part B) in 100 ml 2 N HCl was refluxed for 4 hours. The solution was evaporated to a crystalline residue which was suspended in ethanol. After cooling, the crystals were collected and dried to give 3.95 g (89%) of product, mp. decomposes slowly above 260° C.

reactant | 17-cyano-4,5α-epoxy-8β-ethyl-3-methoxymorphinan-6-one | 4.30 g | C(#N)N1[C@H]2[C@@H]3[C@H](CC([C@H]4[C@@]3(C=3C(=C(C=CC3C2)OC)O4)CC1)=O)CC | C20H22N2O3
reactant | HCl | 2 N, 100 ml | Cl | ClH
product | 4,5α-Epoxy-8β-ethyl-3-methoxymorphinan-6-one hydrochloride | 3.95 g, 89% | Cl.O1C2=C(C=CC=3C[C@@H]4[C@@H]5[C@H](CC([C@H]1[C@@]5(C23)CCN4)=O)CC)OC | InChI=1S/C19H23NO3.ClH/c1-3-10-9-13(21)18-19-6-7-20-12(15(10)19)8-11-4-5-14(22-2)17(23-18)16(11)19;/h4-5,10,12,15,18,20H,3,6-9H2,1-2H3;1H/t10-,12+,15-,18-,19-;/m0./s1
